US07294637B2
(S)-[1-Phenyl-2-piperidin-3-yl-ethanone] (142 mg, 0.70 mmol) and 1-(4-Chloro-phenyl)-cyclobutanecarboxylic acid (148 mg, 0.70 mmol) were dissolved in 5 mL of methylene chloride and treated with the amide coupling agent BROP (1.05 mmol), and diisopropylethylamine (2.1 mmol). The mixture was kept at room temperature overnight, diluted with 20 mL of water, and 50 mL of ether. Extractive workup gave, after concentration of the organic layers in vacuo and chromatography on silica gel using a EtOAc-hexane gradient column, the desired amide intermediate 2-{1-[1-(4-Chloro-phenyl)-cyclobutanecarbonyl]-piperidin-3-yl}-1-phenyl-ethanone (254 mg, 92%). This amide was dissolved in 10 mL of THF at 0° C. and excess lithium aluminum hydride (245 mg) was added. The solution was heated to reflux for 5 minutes, cooled to 0° C., and quenched by dropwise addition of 1.5 mL 1M NaOH. Additional THF (10 mL) was added, and the suspension was stirred at room temperature for 30 minutes and then filtered though a plug of sodium sulfate. The solution thus obtained was concentrated in vacuo and the residue was purified by flash chromatography on silica gel using as eluent a gradient of ethyl acetate in hexane containing 1% ammonium hydroxide. 205 mg of (S)-[2-{1-[1-(4-Chloro-phenyl)-cyclobutylmethyl]-piperidin-3-yl}-1-phenyl-ethanol], 182, was obtained (83%). 1H and 13C NMR data was consistent with the assigned structure. Data for this compound as a mixture of diastereomers: MS 384 (M++1).

reactant | (S)-[1-Phenyl-2-piperidin-3-yl-ethanone] | 0.70 mmol, 142 mg | C1(=CC=CC=C1)C(C[C@H]1CNCCC1)=O | C13H17NO
reactant | 1-(4-Chloro-phenyl)-cyclobutanecarboxylic acid | 0.70 mmol, 148 mg | ClC1=CC=C(C=C1)C1(CCC1)C(=O)O | C11H11ClO2
reactant | BROP | 1.05 mmol | CN(C)[P+](N(C)C)(N(C)C)Br.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 2.1 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | lithium aluminum hydride | 245 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | 20 mL | O | H2O
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | (S)-[2-{1-[1-(4-Chloro-phenyl)-cyclobutylmethyl]-piperidin-3-yl}-1-phenyl-ethanol] | 205 mg | ClC1=CC=C(C=C1)C1(CCC1)CN1CC(CCC1)C[C@H](O)C1=CC=CC=C1 | C24H30ClNO
